US06562828B1
4-Aminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrobromide
To a solution of 4-benzyloxycarbonylaminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester (331 mg) in chloroform (0.5 ml) was added 25% hydrogen bromide-acetic acid (2 ml), and the mixture was stirred at room temperature for 10 min. After completion of the reaction, hexane, diisopropyl ether and diethyl ether were added and the supernatant was removed. Then, dimethylformamide (1 ml) was added and the resultant solid was collected by filtration, and washed with diethyl ether and dried under reduced pressure to give the title compound (423 mg).

reactant | 4-benzyloxycarbonylaminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester | 331 mg | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)CNC(=O)OCC1=CC=CC=C1 | C22H27N3O4
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
reactant | hexane | CCCCCC | C6H14
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Aminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrobromide | 423 mg | Br.Br.C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)CN | InChI=1S/C14H21N3O2.2BrH/c1-2-19-13(18)14(11-15)5-9-17(10-6-14)12-3-7-16-8-4-12;;/h3-4,7-8H,2,5-6,9-11,15H2,1H3;2*1H
